US07615562B2
Step A: (4-Phenyl-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared from (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine and phenylboronic acid according to Method C (Example 178). Yield: 190 mg (82%).

reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | (4-Phenyl-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | C1(=CC=CC=C1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C19H26N4
